US06881733B1
4-chloro-5-fluoro-7-bromobenzofuran
A mixture of 5 gm (34.1 mMol) 3-chloro-4-fluorophenol and 1.76 mL (34.1 mMol) bromine in 20 mL carbon disulfide was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in dichloromethane, washed with water, dried over sodium sulfate and concentrated under reduced pressure to provide a mixture of 2-bromo-4-fluoro-5-chlorophenol and 2-bromo-3-chloro-4-fluorophenol.

reactant | 3-chloro-4-fluorophenol | 34.1 mMol, 5 gm | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | bromine | 34.1 mMol, 1.76 mL | BrBr | Br2
reactant | 2-bromo-4-fluoro-5-chlorophenol | BrC1=C(C=C(C(=C1)F)Cl)O | C6H3BrClFO
reactant | 2-bromo-3-chloro-4-fluorophenol | BrC1=C(C=CC(=C1Cl)F)O | C6H3BrClFO
solvent | carbon disulfide | 20 mL | C(=S)=S | CS2
product | 4-chloro-5-fluoro-7-bromobenzofuran | ClC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrClFO
